US06670388B1
g) 5-(5-Benzenesulfonyloxy-2-chlorobenzyloxy)-1-[(2-thiophen-3-yl)ethyl]-1H-indole-2-carboxylic Acid Ethyl Ester
To a solution of 5-hydroxy-1-[(2-thiophen-3-yl)ethyl]-1H-indole-2-carboxylic acid ethyl ester (0.42 g, 1.33 mmol) in dry DMF (10 mL) was added Cs2CO3 (0.65 g, 1.99 mmol). After stirring at 60° C. for 30 min, benzenesulfonic acid 3-bromomethyl-4-chlorophenyl ester (0.48 g, 1.33 mmol), from Example 1(b) above, was added. The reaction was kept stirring at 60° C. for 18 h. The reaction mixture was cooled and partitioned between EtOAc and water. The organic layer was washed with brine, dried (Na2SO4) and concentrated in vacua. Purification by flash column chromatography (silica gel, EtOAc/hexanes) afforded the partially purified product which was used directly in the next step without further purification (see Examples 1(h) and 2(c)).

reactant | 5-hydroxy-1-[(2-thiophen-3-yl)ethyl]-1H-indole-2-carboxylic acid ethyl ester | 1.33 mmol, 0.42 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)O)CCC1=CSC=C1 | C17H17NO3S
reactant | Cs2CO3 | 1.99 mmol, 0.65 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | benzenesulfonic acid 3-bromomethyl-4-chlorophenyl ester | 1.33 mmol, 0.48 g | BrCC=1C=C(C=CC1Cl)OS(=O)(=O)C1=CC=CC=C1 | C13H10BrClO3S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-(5-Benzenesulfonyloxy-2-chlorobenzyloxy)-1-[(2-thiophen-3-yl)ethyl]-1H-indole-2-carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)OCC1=C(C=CC(=C1)OS(=O)(=O)C1=CC=CC=C1)Cl)CCC1=CSC=C1 | C30H26ClNO6S2
